US09447091B2
d) N-(3-((4-bromo-2-nitrophenyl)amino)-5-(3-fluoropyridin-2-yl)phenyl)acetamide
Solution of 4-bromo-1-fluoro-2-nitrobenzene (3.0 g, 13.63 mmol), N-(3-amino-5-(3-fluoropyridin-2-yl)phenyl)acetamide (4.0 g, 16.36 mmol), and potassium fluoride (0.95 g, 16.36 mmol) in DMF was heated at 130° C. for 16 h. The mixture was quenched and extracted as in Example 1(d). The solvent was distilled off to afford the crude residue which was purified by column chromatography (60-120 silica gel, 30% ethyl acetate in hexane) to yield the title product in 50% yield (3.4 g). 1H NMR (300 MHz, DMSO-d6): δ 8.55 (brs, 1H), 8.23 (brs, 1H), 7.96 (m, 2H), 7.85 (m, 2H), 7.67 (d, 1H), 7.51 (m, 2H), 7.21 (d, 1H), 2.07 (s, 3H).

reactant | 4-bromo-1-fluoro-2-nitrobenzene | 13.63 mmol, 3.0 g | BrC1=CC(=C(C=C1)F)[N+](=O)[O-] | C6H3BrFNO2
reactant | N-(3-amino-5-(3-fluoropyridin-2-yl)phenyl)acetamide | 16.36 mmol, 4.0 g | NC=1C=C(C=C(C1)C1=NC=CC=C1F)NC(C)=O | C13H12FN3O
reactant | potassium fluoride | 16.36 mmol, 0.95 g | [F-].[K+]
solvent | DMF | CN(C)C=O | C3H7NO
product | N-(3-((4-bromo-2-nitrophenyl)amino)-5-(3-fluoropyridin-2-yl)phenyl)acetamide | 50% yield | BrC1=CC(=C(C=C1)NC=1C=C(C=C(C1)C1=NC=CC=C1F)NC(C)=O)[N+](=O)[O-] | C19H14BrFN4O3
